US05530002
4.3. 7-(Cyclopropylmethoxy)naphthalene-1-amine
A mixture of 13 g (0.05 mol) of N-[7-(cyclopropylmethoxy)naphth-1-yl]acetamide, 35 ml of 10N sodium hydroxide solution and 150 ml of 2-methoxyethanol is heated at reflux for 4 h under a nitrogen atmosphere. The solvent is evaporated under reduced pressure. The residue is taken up in 200 ml of dichloromethane and 200 ml of water, and the mixture is stirred in the presence of carbon black and filtered over kieselguhr. The organic phase obtained is separated, dried over magnesium sulphate and filtered. The solvent is evaporated under reduced pressure and the residue is purified by chromatography on a column of silica gel, eluting with dichloromethane. 7.8 g of an oil are obtained which crystallizes on cooling to give a product, melting point: 49°-50° C.

reactant | N-[7-(cyclopropylmethoxy)naphth-1-yl]acetamide | 0.05 mol, 13 g | C1(CC1)COC1=CC=C2C=CC=C(C2=C1)NC(C)=O | C16H17NO2
reactant | sodium hydroxide | 10N, 35 ml | [OH-].[Na+]
solvent | 2-methoxyethanol | 150 ml | COCCO | C3H8O2
product | 7-(Cyclopropylmethoxy)naphthalene-1-amine | 7.8 g | C1(CC1)COC1=CC=C2C=CC=C(C2=C1)N | C14H15NO
